US06265577B1
Methyl 4-(2-isopropylpyrazolo[1,5-a]pyridine-3-yl)-3-phenyl-4-oxobutyrate
2-Isopropyl-3-phenacylpyrazolo[1,5-a]pyridine (1.90 g) was dissolved into DMF (30 ml), and, after adding sodium hydride (0.35 g), the mixture was stirred for 0.5 hours at room temperature. Methyl 2-bromoacetate (1.36 g) was added, and, after stirring the mixture for 3 hours at room temperature, saturated aqueous solution of ammonium chloride was added and diluted with water, which was extracted with ether. After the organic layer was washed with water and with saturated brine and dried over anhydrous sodium sulfate, solvent was distilled off under reduced pressure. The residue was purified by means of silica gel column chromatography (developing solvent, ethyl acetate:n-hexane=1:3) to obtain aimed product (1.58 g) as a yellow oily product.

reactant | 2-Isopropyl-3-phenacylpyrazolo[1,5-a]pyridine | 1.90 g | C(C)(C)C1=NN2C(C=CC=C2)=C1CC(=O)C1=CC=CC=C1 | C18H18N2O
reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | Methyl 2-bromoacetate | 1.36 g | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Methyl 4-(2-isopropylpyrazolo[1,5-a]pyridine-3-yl)-3-phenyl-4-oxobutyrate | 1.58 g | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(CC(=O)OC)C1=CC=CC=C1)=O | C21H22N2O3
